US07601716B2
{4-[1-(2-Chloro-3,6-difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-(pyrrolidin-1-yl)piperidin-1-yl)methanone
1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (42 mg) was reacted with (4-(pyrrolidin-1-yl)piperidin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone as in General Procedure 4A to give the title compound as a pale yellow foam (36% yield). M.p. 93-95° C., LCMS: m/z=553.00 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.75-1.85 (m, 5H), 1.87-2.04 (m, 2H), 2.22-2.33 (m, 1H), 2.88-3.08 (m, 2H), 3.28-3.33 (m, 2H), 3.52-3.58 (m, 2H), 3.82-3.90 (m, 1H), 4.53 (s, 1H), 4.90 (bs, 1H), 6.96-7.02 (m, 1H), 7.17 (s, 1H), 7.18-7.20 (m, 1H), 7.42 (d, J=8.3 Hz, 2H), 7.51 (d, J=8.3 Hz, 2H), 7.75 (s, 1H).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 42 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C(=CC=C1F)F | C14H11ClF2IN3
reactant | (4-(pyrrolidin-1-yl)piperidin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone | N1(CCCC1)C1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H33BN2O3
product | {4-[1-(2-Chloro-3,6-difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-(pyrrolidin-1-yl)piperidin-1-yl)methanone | 36% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCC(CC3)N3CCCC3)C(=CC=C1F)F | C30H32ClF2N5O
